US07968563B2
2-(chloromethyl)-1-isobutyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine hydrochloride (1.53 g, 5.05 mmol) was dissolved in 10 mL of DMF in a pressure tube under a nitrogen atmosphere. Methoxylamine hydrochloride (1.27 g, 15.15 mmol) and triethylamine (4.22 mL, 30.3 mmol) were added, the tube was sealed and the contents heated to 50° C. for two hours, then to 60° C. for five hours. The mixture was then stored in the refrigerator over the weekend. The contents were poured into water (60 mL) and stirred for 20 minutes. The solution was extracted with chloroform (3×70 mL) and the organics were washed with water (4×40 mL) and brine (30 mL), dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by HPFC eluting with a gradient of 0-30% CMA (80/18/2 v/v/v chloroform/methanol/concentrated ammonium hydroxide) in chloroform and then recrystallized from acetonitrile to provide 1-isobutyl-2-[(methoxyamino)methyl]-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine as a white powder, mp 154.0-156.0° C.

reactant | 2-(chloromethyl)-1-isobutyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine hydrochloride | 5.05 mmol, 1.53 g | Cl.ClCC=1N(C2=C(C(=NC(=C2C)C)N)N1)CC(C)C
reactant | Methoxylamine hydrochloride | 15.15 mmol, 1.27 g | Cl.O(C)N
reactant | triethylamine | 30.3 mmol, 4.22 mL | C(C)N(CC)CC | C6H15N
reactant | water | 60 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-isobutyl-2-[(methoxyamino)methyl]-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine | C(C(C)C)N1C(=NC=2C(=NC(=C(C21)C)C)N)CNOC | C14H23N5O
